US07498440B2
4-[hydroxy(diphenyl)methyl]-1-{2-[(1-methyl-1-phenylethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (41 mg, 0.14 mmol) was added to a solution of {1-[(2-bromoethyl)oxy]-1-methylethyl}benzene (34 mg, 0.14 mmol) in 2:3 CH3CN/CHCl3 (3 mL), and the reaction was heated at 60° C. for 3 days. The reaction was concentrated under reduced pressure, and the crude product was washed with EtOAc (3×1 mL). The residue was taken up in 2.5 mL of DMSO and purified by preparatory HPLC (without TFA) to give the title compound (18 mg, 24%). LC/MS ESI RT 2.09 min M+ 456

reactant | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.14 mmol, 41 mg | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | {1-[(2-bromoethyl)oxy]-1-methylethyl}benzene | 0.14 mmol, 34 mg | BrCCOC(C)(C)C1=CC=CC=C1 | C11H15BrO
solvent | CH3CN CHCl3 | 3 mL | CC#N.C(Cl)(Cl)Cl
product | 4-[hydroxy(diphenyl)methyl]-1-{2-[(1-methyl-1-phenylethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide | 18 mg, 24% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOC(C)(C2=CC=CC=C2)C)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C31H38NO2.BrH/c1-29(2,26-12-6-3-7-13-26)34-25-24-32-21-18-30(19-22-32,20-23-32)31(33,27-14-8-4-9-15-27)28-16-10-5-11-17-28;/h3-17,33H,18-25H2,1-2H3;1H/q+1;/p-1
